US07157447B2
4-Fluoro-2-(2-methyl-2H-tetrazol-5-yl)-benzonitrile.
A mixture of intermediate 57, 5-(2-bromo-5-fluoro-phenyl)-2-methyl-2H-tetrazole (650 mg, 2.53 mmol) and CuCN (224 mg, 2.5 mmol) in dimethylformamide (4 mL) was placed in a sealed tube and heated at 100–110° C. for 20 hrs. After cooling, the insoluble material was filtered, and the filtrate concentrated in vacuo. The residue was dissolved in CH2Cl2, washed with aq. 4N HCl and dil. NH4OH, then dried (MgSO4), filtered, and concentrated. The residual solid was purified by column chromatography (SiO2, CH2Cl2) to obtain 375 mg (Yield 73%) of the title compound as an off-white solid; 1H NMR (500 MHz, CDCl3) δ ppm: 4.48 (3H, s) 7.29 (1H, dd, J=7.6, 2.8 Hz) 7.85 (1H, dd, J=8.6, 5.2 Hz) 8.00 (1H, dd, J=9.0, 2.6 Hz); LC/MS m/z 204.

reactant | 5-(2-bromo-5-fluoro-phenyl)-2-methyl-2H-tetrazole | 2.53 mmol, 650 mg | BrC1=C(C=C(C=C1)F)C=1N=NN(N1)C | C8H6BrFN4
reactant | CuCN | 2.5 mmol, 224 mg | C(#N)[Cu]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-Fluoro-2-(2-methyl-2H-tetrazol-5-yl)-benzonitrile | 375 mg, Yield 73% | FC1=CC(=C(C#N)C=C1)C=1N=NN(N1)C | C9H6FN5
